Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ORTHOPAEDICS
 
Allergies: 
Morphine
 
Attending: ___.
 
Chief Complaint:
Left elbow pain after fall
 
Major Surgical or Invasive Procedure:
___:
ORIF Left elbow

 
History of Present Illness:
Mr. ___ is an ___ year old man who tripped and fell on the 
curb, landing on his left elbow. Had immediate pain and 
swelling, difficulty bending elbow.
 
Past Medical History:
PMH: HTN

PSH: ORIF R femur
 
Social History:
___
Family History:
NC
 
Physical Exam:
On discharge:
AVSS
NAD
RRR
CTAB
LUE: splint and sling in place c/d/i. ___ FPL/EIP/IO, SILT, 2+ 
radial pulse
 
Pertinent Results:
___ 09:40PM BLOOD WBC-10.7 RBC-4.60 Hgb-14.3 Hct-41.4 
MCV-90 MCH-31.1 MCHC-34.6 RDW-14.7 Plt ___
___ 09:40PM BLOOD Neuts-78.2* Lymphs-15.9* Monos-5.0 
Eos-0.5 Baso-0.4
___ 09:40PM BLOOD ___ PTT-20.4* ___
___ 09:40PM BLOOD Glucose-209* UreaN-18 Creat-1.2 Na-140 
K-4.1 Cl-106 HCO3-23 AnGap-15
___ 09:40PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-TR BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG

CT LUE ___:
Complex ___ radius and ulna fractures, including a transverse 
fx of the 
radial neck with posterior displacement of the radial head and a 
comminuted, angulated fx of the proximal ulna with a large 
butterfly fragment involving the coronoid process that is 
displaced anteriorly. the distal humerus is intact w/o fracture. 


 
Brief Hospital Course:
Mr. ___ was admitted to the orthopaedic surgery service on 
___ for treatment of his left elbow fracture. He was prepped 
for surgery and taken to the OR on ___. He tolerated the 
procedure well without complication. After a brief stay in the 
PACU, he was transfered to the floor.
He arrived to the floor on a regular diet and with oxycodone and 
tylenol for pain. He had an uneventful night on POD 0 with his 
pain well controled.
The rest of his course was uneventful. At the time of discharge, 
he was afebrile with stable vital signs, tolerating a regular 
diet, ambulating without assistance, voiding spontaneously, and 
with his pain well controled on PO meds. He was discharged home 
with ___ and home OT on ___.
 
Medications on Admission:
verapamil SR 240', nexium, MVI, colace, metamucil
 
Discharge Medications:
1. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*2*
2. Verapamil 120 mg Tablet Sustained Release Sig: Two (2) Tablet 
Sustained Release PO Q24H (every 24 hours).  
3. Nexium 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day.  
4. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
5. Oxycodone 5 mg Tablet Sig: ___ Tablets PO every ___ hours as 
needed for pain.
Disp:*90 Tablet(s)* Refills:*0*
6. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours) as needed for pain/fever.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Left radial head, coronoid, olecranon fractures

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Continue to be non-weight bearing on your left arm. Keep your 
splint clean and dry, use your sling for comfort.

Please take all your medication as prescribed

If you have any increased redness, drainage, or swelling, or if 
you have a temperature greater than 101.5, please call the 
office or come to the emergency department.
Physical Therapy:
Activity:  Ambulate twice daily if patient able
 Left upper extremity:  Non weight bearing

 
Followup Instructions:
___